US07825253B2
N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-(1H-indol-4-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=435.3 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4) and indole-4-carboxaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | indole-4-carboxaldehyde | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-(1H-indol-4-ylmethyl)-quinoline-2,5-diamine | CC1(OC2=C(C1)C=CC=C2NC2=NC=1C=CC=C(C1C=C2)NCC2=C1C=CNC1=CC=C2)C | C28H26N4O
